US04307078
Two molar equivalents of the potassium salt of butylphenol and one molar equivalent of 1,8-dibromooctane are reacted in ethanol according to the procedure described in Example 1, to afford 1,8-bis (butylphenoxy) octane. Sulfonation with sulfur trioxide or chlorosulfonic acid, followed by neutralization of the disulfonic acid with methanolic potassium hydroxide, affords the potassium sulfonate.

reactant | potassium | [K] | K
reactant | butylphenol | C(CCC)C1=C(C=CC=C1)O | C10H14O
reactant | 1,8-dibromooctane | BrCCCCCCCCBr | C8H16Br2
solvent | ethanol | C(C)O | C2H6O
product | 1,8-bis (butylphenoxy) octane | C(CCC)C1=C(OCCCCCCCCOC2=C(C=CC=C2)CCCC)C=CC=C1 | C28H42O2
